US04226872
Acetic anhydride (6.6 ml) is heated to 115°, after which 6-benzoyl-2-methylpyridine N-oxide is added in portions over 1 hour. The mixture is then held at 115° for 1 hour after the addition. The reaction is poured onto ice and extracted with ether (3×). The combined ether phases are washed with sat. NaHCO3 (2×) and water until neutral, dried and stripped. The product is preparatory thin layer chromatographed, the least polar band giving 2-(acetoxymethyl)-6-benzoylpyridine.

reactant | Acetic anhydride | 6.6 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 6-benzoyl-2-methylpyridine N-oxide | C(C1=CC=CC=C1)(=O)C1=CC=CC(=[N+]1[O-])C | C13H11NO2
product | 2-(acetoxymethyl)-6-benzoylpyridine | C(C)(=O)OCC1=NC(=CC=C1)C(C1=CC=CC=C1)=O | C15H13NO3
